US06004959
2-(6,4'-diisopropyloxy-2'-methoxy-biphenyl-2-yl)-3,4,4-trimethyl-oxazolinium iodide
Add iodomethane (12.43 g, 0.0875 mole) to a stirred solution of 2-(6,4'-diisopropyloxy-2'-methoxy-biphenyl-2-yl)-4,4-dimethyloxazoline (5.80 g, 0.0146 mole) in dry DMSO (30 mL). Stir the resulting mixture for about 72 hours, then dilute with ether (600 mL). Collect the precipitated solid by filtration, then triturate with CHCl3 (400 mL) and filter. Discard the insoluble solid and concentrate the filtrate to obtain the title compound as an off-white solid. m.p. 213°-214° C.

reactant | iodomethane | 0.0875 mole, 12.43 g | IC | CH3I
reactant | 2-(6,4'-diisopropyloxy-2'-methoxy-biphenyl-2-yl)-4,4-dimethyloxazoline | 0.0146 mole, 5.80 g | C(C)(C)OC1=CC=CC(=C1C1=C(C=C(C=C1)OC(C)C)OC)C=1OCC(N1)(C)C | C24H31NO4
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
solvent | ether | 600 mL | CCOCC | C4H10O
product | 2-(6,4'-diisopropyloxy-2'-methoxy-biphenyl-2-yl)-3,4,4-trimethyl-oxazolinium iodide | [I-].C(C)(C)OC1=CC=CC(=C1C1=C(C=C(C=C1)OC(C)C)OC)C=1OCC([N+]1C)(C)C | InChI=1S/C25H34NO4.HI/c1-16(2)29-18-12-13-19(22(14-18)27-8)23-20(10-9-11-21(23)30-17(3)4)24-26(7)25(5,6)15-28-24;/h9-14,16-17H,15H2,1-8H3;1H/q+1;/p-1
